US07176231B2
1,5-diacetyl-3-[chloro-(pyrazin-2-yl)-methylidene]-2-indolinone
1.2 g (3.7 mmol) 1,5-diacetyl-3-[pyrazin-2-yl-hydroxy-methylidene]-2-indolinone (Ex. V.23) are dissolved in 50 ml dioxane and refluxed with 2 ml carbon tetrachloride and 2 g triphenylphosphine for 5 h. Then the mixture is left to cool and evaporated down. The residue is chromatographed through a silica gel column with methylene chloride/methanol 25:1, the corresponding fractions are combined and concentrated by rotary evaporation.

reactant | 1,5-diacetyl-3-[pyrazin-2-yl-hydroxy-methylidene]-2-indolinone | 3.7 mmol, 1.2 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=NC=CN=C1)=O | C17H13N3O4
reactant | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1,5-diacetyl-3-[chloro-(pyrazin-2-yl)-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(C1=NC=CN=C1)Cl)=O | C17H12ClN3O3
